US06878714B2
1-Boc-2-(3-nitro-5-trifluoromethyl-phenoxymethyl)-pyrrolidine (2.35 g) was dissolved in CH2Cl2 (60 ml) and TFA (20 ml) was added. After stirring for 1 h at RT, the mixture was concentrated in vacuo to yield 2-(3-nitro-5-trifluoromethyl-phenoxymethyl)-pyrrolidine as an oil that solidified upon standing. The material was used as is without further purification.

reactant | 1-Boc-2-(3-nitro-5-trifluoromethyl-phenoxymethyl)-pyrrolidine | 2.35 g | C(=O)(OC(C)(C)C)N1C(CCC1)COC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C17H21F3N2O5
reactant | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-nitro-5-trifluoromethyl-phenoxymethyl)-pyrrolidine | [N+](=O)([O-])C=1C=C(OCC2NCCC2)C=C(C1)C(F)(F)F | C12H13F3N2O3
